US06555541B1
d) 4-(3-Amino-4-methyl-benzyl)-piperazine-1-carboxylic acid tert-butyl ester
To crude 4-(4-methyl-3-nitro-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (3.5 g) in EtOH/water (60 ml, 1:1) was added iron powder (4 g) and solid NH4Cl (4 g) and the mixture heated to reflux temperature for 1.5 hr. After cooling to room temperature the reaction was filtered through Celite and the filter cake washed with further EtOH. The majority of the solvent was removed in vacuo before addition of ethyl acetate and aqueous K2CO3. The organic layer was separated, washed with brine, dried (Na2SO4) and concentrated, to leave an oil that was triturated with isohexanes to afford a pale brown solid (3 g).

reactant | 4-(4-methyl-3-nitro-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)C)[N+](=O)[O-] | C17H25N3O4
reactant | NH4Cl | 4 g | [NH4+].[Cl-]
solvent | EtOH water | 60 ml | CCO.O
catalyst | iron | 4 g | [Fe] | Fe
product | 4-(3-Amino-4-methyl-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)C)N | C17H27N3O2
